US08975400B2
7-((3-chloro-4-(3-(trifluoromethyl)phenoxy)benzyl)oxy)-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E65 using sodium hydride (13.87 mg, 0.347 mmol), (3-chloro-4-(3-(trifluoromethyl)phenoxy)phenyl)methanol in THF (8 mL) and tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate (62.8 mg, 0.231 mmol).

reactant | sodium hydride | 0.347 mmol, 13.87 mg | [H-].[Na+]
reactant | (3-chloro-4-(3-(trifluoromethyl)phenoxy)phenyl)methanol | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)CO | C14H10ClF3O2
reactant | tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | 0.231 mmol, 62.8 mg | ClC=1C=C2N(C(N1)=O)CCN2C(=O)OC(C)(C)C | C11H14ClN3O3
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 7-((3-chloro-4-(3-(trifluoromethyl)phenoxy)benzyl)oxy)-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | ClC=1C=C(COC=2C=C3N(C(N2)=O)CCN3)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C20H15ClF3N3O3
